US07642264B2
2-(3-Bromo-phenyl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 2-chloro-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine (example A.2) (0.65 g, 2.0 mmol) and commercially available 3-bromo-benzene-boronic acid (0.44 g, 2.20 mmol) according to the general procedure IVb. Obtained as a white solid (0.66 g, 73%). MS (EI) 446.0 [(M)+]; mp 134° C.

reactant | 2-chloro-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine | 2.0 mmol, 0.65 g | ClC1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C12H5ClF6N2
reactant | 3-bromo-benzene-boronic acid | 2.20 mmol, 0.44 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C18H9BrF6N2
